* /home/arsenal/HAM_Elektronik/low_cost_SDR 1/sch_pcb_KiCad_0805/LCSDR.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Di 20 Sep 2016 11:27:51 CEST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
C13  BPF Net-_C13-Pad2_ 3n3		
U2  Net-_R25-Pad2_ Net-_R6-Pad2_ Net-_R20-Pad2_ Net-_C12-Pad1_ Net-_C36-Pad1_ GND GND GND TX TX TX ? ? ? Net-_C6-Pad1_ Net-_C1-Pad1_ 74HC4053		
C14  Net-_C13-Pad2_ Net-_C10-Pad1_ 3n3		
L5  Net-_C13-Pad2_ GND 4,7uH		
C16  Net-_C10-Pad1_ GND 120pF		
L3  Net-_C10-Pad1_ Net-_C10-Pad2_ 4,7uH		
L4  Net-_C10-Pad2_ Net-_C11-Pad2_ 4,7uH		
C17  Net-_C10-Pad2_ GND 220pF		
C18  Net-_C11-Pad2_ GND 120pF		
C10  Net-_C10-Pad1_ Net-_C10-Pad2_ 15pF		
C11  Net-_C10-Pad2_ Net-_C11-Pad2_ 15pF		
U3  /270 GND /90 Net-_C11-Pad2_ Net-_C7-Pad2_ /90 SN74LVC1G3157		
U4  /0 GND /180 Net-_C11-Pad2_ Net-_C7-Pad2_ /0 SN74LVC1G3157		
L2  Net-_C4-Pad1_ Net-_C11-Pad2_ 100uH		
R3  +2V5 Net-_C4-Pad1_ k51		
R2  GND Net-_C4-Pad1_ k51		
C5  GND Net-_C4-Pad1_ 100n		
C4  Net-_C4-Pad1_ GND 10uF 16v		
L1  +2V5 Net-_C7-Pad2_ 47uH		
C8  GND Net-_C7-Pad2_ 100n		
C7  GND Net-_C7-Pad2_ 1uF		
L6  Net-_C7-Pad2_ Net-_C21-Pad1_ 47uH		
C23  Net-_C21-Pad1_ GND 100n		
C22  Net-_C21-Pad1_ GND 10uF 16v		
U6  Net-_C21-Pad1_ /90 Net-_U6-Pad3_ Net-_C21-Pad1_ /0 ? Net-_U6-Pad15_ Net-_U6-Pad12_ /90 Net-_C21-Pad1_ Net-_U6-Pad11_ Net-_U6-Pad12_ Net-_C21-Pad1_ Net-_C21-Pad1_ Net-_U6-Pad15_ 74LVC74ABQ		
C21  Net-_C21-Pad1_ GND 100n		
U7  Net-_C21-Pad1_ Net-_C21-Pad1_ Net-_U6-Pad11_ Net-_U6-Pad15_ Net-_U6-Pad3_ Net-_U6-Pad3_ Net-_C28-Pad1_ Net-_C21-Pad1_ 74LVC1G74GM		
C27  Net-_C21-Pad1_ GND 100n		
R17  Net-_C21-Pad1_ Net-_C29-Pad1_ 1k		
R19  Net-_C29-Pad1_ GND 1k		
R18  Net-_C28-Pad1_ Net-_C29-Pad1_ k15		
C28  Net-_C28-Pad1_ Net-_C28-Pad2_ 1n		
C29  Net-_C29-Pad1_ GND 100n		
R15  /0 Net-_C24-Pad2_ 20R		
R10  /180 Net-_C19-Pad2_ 20R		
R7  /270 Net-_C12-Pad2_ 20R		
R4  /90 Net-_C6-Pad2_ 20R		
C9  Net-_C6-Pad2_ GND 27n		
C15  Net-_C12-Pad2_ GND 27n		
C20  Net-_C19-Pad2_ GND 27n		
C25  Net-_C24-Pad2_ GND 27n		
C6  Net-_C6-Pad1_ Net-_C6-Pad2_ 10uF 16v		
C12  Net-_C12-Pad1_ Net-_C12-Pad2_ 10uF 16v		
C19  Net-_C19-Pad1_ Net-_C19-Pad2_ 10uF 16v		
C24  Net-_C24-Pad1_ Net-_C24-Pad2_ 10uF 16v		
U5  Net-_R11-Pad2_ Net-_R31-Pad2_ Net-_R12-Pad2_ Net-_C24-Pad1_ Net-_C39-Pad1_ GND GND GND TX TX TX ? ? ? Net-_C19-Pad1_ Net-_C1-Pad1_ 74HC4053		
R1  Net-_C1-Pad1_ TX 10k		
C1  Net-_C1-Pad1_ GND 100n		
C2  Net-_C1-Pad1_ GND 10uF		
C26  GND TX 15n		
C3  ? GND 15n		
R6  Net-_R28-Pad2_ Net-_R6-Pad2_ 4k75		
U1  Net-_R21-Pad1_ Net-_R21-Pad2_ Net-_R20-Pad2_ Net-_C32-Pad1_ Net-_R25-Pad2_ Net-_R22-Pad2_ Net-_R24-Pad1_ Net-_R13-Pad1_ Net-_R14-Pad1_ Net-_R11-Pad2_ GND Net-_R12-Pad2_ Net-_R13-Pad2_ Net-_R16-Pad1_ MC33179DR2G		
R16  Net-_R16-Pad1_ Net-_R13-Pad2_ 3k 1%		
R13  Net-_R13-Pad1_ Net-_R13-Pad2_ 1k 1%		
R12  Net-_C30-Pad1_ Net-_R12-Pad2_ 4k75		
R11  Net-_C30-Pad1_ Net-_R11-Pad2_ 4k75		
R14  Net-_R14-Pad1_ Net-_R13-Pad2_ k27		
R9  Net-_R13-Pad1_ Net-_R14-Pad1_ 1k 1%		
R8  Net-_R14-Pad1_ Net-_C30-Pad1_ 3k 1%		
R21  Net-_R21-Pad1_ Net-_R21-Pad2_ 1k 1%		
R5  Net-_R21-Pad2_ Net-_C30-Pad1_ 3k 1%		
R22  Net-_R21-Pad1_ Net-_R22-Pad2_ 1k 1%		
R25  Net-_C30-Pad1_ Net-_R25-Pad2_ 4k75		
R20  Net-_C30-Pad1_ Net-_R20-Pad2_ 4k75		
R24  Net-_R24-Pad1_ Net-_R22-Pad2_ 3k 1%		
R23  Net-_R21-Pad2_ Net-_R22-Pad2_ k27		
C31  Net-_C30-Pad1_ GND 10uF		
C30  Net-_C30-Pad1_ GND 100n		
R27  GND Net-_C30-Pad1_ k75		
R26  Net-_C32-Pad1_ Net-_C30-Pad1_ k75		
C32  Net-_C32-Pad1_ GND 10uF		
C33  Net-_C32-Pad1_ GND 100n		
L7  +9V Net-_C32-Pad1_ 47uH		
L8  +9V Net-_C1-Pad1_ 100uH		
C34  Net-_C1-Pad1_ GND 10uF		
C35  Net-_C1-Pad1_ GND 100n		
U8  Net-_R6-Pad2_ Net-_R28-Pad2_ Net-_C30-Pad1_ Net-_C40-Pad1_ Net-_C30-Pad1_ Net-_C36-Pad2_ Net-_C36-Pad1_ Net-_R31-Pad2_ Net-_R31-Pad1_ Net-_C30-Pad1_ GND Net-_C30-Pad1_ Net-_C39-Pad2_ Net-_C39-Pad1_ MC33179DR2G		
R29  Net-_C36-Pad2_ Net-_C36-Pad1_ 4k75		
C36  Net-_C36-Pad1_ Net-_C36-Pad2_ 390p		
C38  Net-_C30-Pad1_ GND 10uF		
C37  Net-_C30-Pad1_ GND 100n		
R31  Net-_R31-Pad1_ Net-_R31-Pad2_ 4k75		
R28  Net-_C36-Pad1_ Net-_R28-Pad2_ 4k75		
R30  Net-_C39-Pad1_ Net-_C39-Pad2_ 4k75		
C39  Net-_C39-Pad1_ Net-_C39-Pad2_ 390p		
R32  Net-_C39-Pad1_ Net-_R31-Pad1_ 4k75		
C40  Net-_C40-Pad1_ GND 10uF		
C41  Net-_C40-Pad1_ GND 100n		
L9  +9V Net-_C40-Pad1_ 47uH		
U10  Net-_C47-Pad1_ Net-_L10-Pad2_ Net-_C46-Pad1_ Net-_C53-Pad1_ Net-_L11-Pad2_ GND GND GND TX TX TX ? ? ? Net-_C52-Pad1_ Net-_C50-Pad1_ 74HC4053		
U9  Net-_C63-Pad2_ Net-_C71-Pad1_ Net-_C61-Pad2_ Net-_C59-Pad1_ Net-_C71-Pad1_ GND GND GND TX TX TX ? ? ? Net-_C57-Pad1_ Net-_L12-Pad2_ 74HC4053		
C42  Net-_C36-Pad2_ Net-_C42-Pad2_ 6.8uF		
C45  Net-_C39-Pad2_ Net-_C45-Pad2_ 6.8uF		
R34  Net-_C43-Pad1_ Net-_C42-Pad2_ 1k 1%		
R35  Net-_C44-Pad2_ Net-_C45-Pad2_ 1k 1%		
C43  Net-_C43-Pad1_ GND 10n		
C44  GND Net-_C44-Pad2_ 10n		
L10  Net-_C43-Pad1_ Net-_L10-Pad2_ 4700mH		
L11  Net-_C44-Pad2_ Net-_L11-Pad2_ 4700mH		
C46  Net-_C46-Pad1_ Net-_C46-Pad2_ 6.8uF		
C47  Net-_C47-Pad1_ Net-_C47-Pad2_ 6.8uF		
C52  Net-_C52-Pad1_ Net-_C52-Pad2_ 6.8uF		
R38  Net-_C48-Pad1_ Net-_C52-Pad1_ 10k		
R39  Net-_C53-Pad1_ Net-_C48-Pad1_ 10k		
C53  Net-_C53-Pad1_ Net-_C53-Pad2_ 6.8uF		
C49  Net-_C48-Pad1_ GND 100n		
C48  Net-_C48-Pad1_ GND 10uF		
R36  Net-_C50-Pad1_ Net-_C48-Pad1_ 1k		
R37  GND Net-_C48-Pad1_ 1k		
C50  Net-_C50-Pad1_ GND 10uF		
C51  Net-_C50-Pad1_ GND 100n		
L12  +9V Net-_L12-Pad2_ 100uH		
C55  GND TX 15n		
R47  Net-_C61-Pad1_ Net-_R16-Pad1_ k10		
C61  Net-_C61-Pad1_ Net-_C61-Pad2_ 6.8uF		
C60  GND TX 15n		
C57  Net-_C57-Pad1_ Net-_C57-Pad2_ 4.7uF		
R44  Net-_C48-Pad1_ Net-_C57-Pad1_ 10k		
R46  Net-_C59-Pad1_ Net-_C48-Pad1_ 10k		
C59  Net-_C59-Pad1_ Net-_C59-Pad2_ 4.7uF		
C64  Net-_C48-Pad1_ GND 10uF		
C58  +9V GND 10uF		
C63  Net-_C63-Pad1_ Net-_C63-Pad2_ 6.8uF		
R45  Net-_C63-Pad1_ Net-_R24-Pad1_ k10		
C62  +9V GND 100n		
L13  +9V Net-_C50-Pad1_ 100uH		
R48  Net-_C68-Pad2_ Net-_C65-Pad1_ 2k2		
R51  Net-_C67-Pad2_ Net-_C67-Pad1_ 1M5		
R49  GND Net-_C65-Pad1_ 2k2		
C65  Net-_C65-Pad1_ GND 10uF		
C66  Net-_C65-Pad1_ GND 100n		
R52  Net-_C72-Pad1_ +9V k43		
R53  GND Net-_C72-Pad1_ k560		
C69  Net-_C69-Pad1_ Net-_C67-Pad2_ 220p		
R54  Net-_C67-Pad2_ Net-_C68-Pad1_ 1k5		
C68  Net-_C68-Pad1_ Net-_C68-Pad2_ 22n		
C67  Net-_C67-Pad1_ Net-_C67-Pad2_ 22p		
R55  Net-_C69-Pad1_ GND 27R		
R50  Net-_C67-Pad1_ Net-_C72-Pad1_ 10k		
Q3  Net-_C67-Pad2_ Net-_C69-Pad1_ Net-_C67-Pad1_ BC850		
C71  Net-_C71-Pad1_ Net-_C67-Pad1_ 100n		
J3  Net-_C59-Pad2_ GND Net-_C57-Pad2_ Net-_C59-Pad2_ Net-_C57-Pad2_ JACK_TRS_3pins		
C70  GND Net-_C48-Pad1_ 100n		
C73  Net-_C72-Pad1_ GND 10uF		
C72  Net-_C72-Pad1_ GND 100n		
R56  Net-_C65-Pad1_ Net-_C72-Pad1_ 1k5		
J1  Net-_C68-Pad2_ GND Net-_C68-Pad2_ Net-_C68-Pad2_ Net-_C68-Pad2_ JACK_TRS_3pins		
J4  Net-_C53-Pad2_ GND Net-_C52-Pad2_ Net-_C53-Pad2_ Net-_C52-Pad2_ JACK_TRS_3pins		
C74  GND Net-_C68-Pad2_ 2n2		
J2  Net-_C47-Pad2_ GND Net-_C46-Pad2_ Net-_C47-Pad2_ Net-_C46-Pad2_ JACK_TRS_3pins		
U12  +13.8V GND +9V L78M09		
U11  ? Net-_R58-Pad1_ GND Net-_C28-Pad2_ ? +3V3 SDA SCL Si570		
R59  SDA +3V3 2k2		
R57  SCL +3V3 2k2		
R58  Net-_R58-Pad1_ +3V3 10k		
C75  +3V3 GND 100n		
C76  +9V GND 100n		
C77  +9V GND 100uF		
C78  +9V GND 100n		
C79  +9V GND 10uF		
C80  +3V3 GND 100n		
C81  +3V3 GND 100uF		
CON1  +13.8V GND GND BARREL_JACK		
C83  +13.8V GND 820uF		
C82  +13.8V GND 100n		
U14  Net-_R60-Pad2_ +2V5 +9V LD1117S25CTR		
C84  +2V5 Net-_C84-Pad2_ 100n		
C85  +2V5 Net-_C84-Pad2_ 100uF		
R60  Net-_C84-Pad2_ Net-_R60-Pad2_ k18		
C87  +9V GND 10uF		
C86  +9V GND 100n		
U13  GND +3V3 +9V LD1117S33TR		
C54  GND TX 15n		
* Sheet Name: /BPF/
L14  Net-_L14-Pad1_ Net-_C106-Pad2_ 47uF		
L15  Net-_C106-Pad2_ Net-_L15-Pad2_ 47uF		
C88  GND Net-_C106-Pad2_ 1uF		
C89  GND Net-_C106-Pad2_ 1uF		
R61  Net-_L14-Pad1_ Net-_C131-Pad1_ k47		
R62  Net-_L15-Pad2_ Net-_C130-Pad1_ k47		
D2  Net-_C91-Pad1_ Net-_C130-Pad1_ BAV203-G08		
D1  Net-_C93-Pad1_ Net-_C131-Pad1_ BAV203-G08		
C98  Net-_C91-Pad1_ GND 750pF		
C97  Net-_C91-Pad1_ GND 1n		
C96  Net-_C91-Pad1_ GND 1n		
L18  Net-_C100-Pad1_ Net-_C91-Pad1_ 4.7uF		
C92  Net-_C91-Pad1_ Net-_C91-Pad2_ 200p		
C91  Net-_C91-Pad1_ Net-_C91-Pad2_ 1n		
L16  Net-_C93-Pad1_ Net-_C91-Pad2_ 10uF		
L17  Net-_C100-Pad1_ Net-_C93-Pad1_ 4.7uF		
R63  Net-_C106-Pad2_ Net-_C100-Pad1_ 10k		
C90  GND Net-_C106-Pad2_ 100n		
C95  Net-_C93-Pad1_ GND 750p		
C94  Net-_C93-Pad1_ GND 1n		
C93  Net-_C93-Pad1_ GND 1n		
C99  Net-_C100-Pad1_ GND 220n		
C100  Net-_C100-Pad1_ GND 220n		
D3  Net-_C102-Pad1_ Net-_C131-Pad1_ BAV203-G08		
C102  Net-_C102-Pad1_ GND 820p		
C103  Net-_C102-Pad1_ GND 680p		
L20  Net-_C107-Pad1_ Net-_C102-Pad1_ 2.2uF		
L19  Net-_C102-Pad1_ Net-_C101-Pad2_ 4.7uF		
C107  Net-_C107-Pad1_ GND 220n		
C108  Net-_C107-Pad1_ GND 220n		
C101  Net-_C101-Pad1_ Net-_C101-Pad2_ 680p		
L21  Net-_C107-Pad1_ Net-_C101-Pad1_ 2.2uF		
C104  Net-_C101-Pad1_ GND 820p		
C105  Net-_C101-Pad1_ GND 680p		
D4  Net-_C109-Pad1_ Net-_C130-Pad1_ BAV203-G08		
R64  Net-_C106-Pad2_ Net-_C107-Pad1_ 10k		
C106  GND Net-_C106-Pad2_ 100n		
D6  Net-_C110-Pad1_ Net-_C131-Pad1_ BAV203-G08		
C110  Net-_C110-Pad1_ GND 820p		
L22  Net-_C110-Pad1_ Net-_C109-Pad2_ 2.2uF		
L23  Net-_C113-Pad1_ Net-_C110-Pad1_ 1uF		
C109  Net-_C109-Pad1_ Net-_C109-Pad2_ 360p		
C112  Net-_C109-Pad1_ Net-_C109-Pad2_ 33p		
L24  Net-_C113-Pad1_ Net-_C109-Pad1_ 1uF		
C114  Net-_C113-Pad1_ GND 100n		
C113  Net-_C113-Pad1_ GND 100n		
R65  Net-_C106-Pad2_ Net-_C113-Pad1_ 10k		
C111  Net-_C109-Pad1_ GND 820p		
D5  Net-_C101-Pad1_ Net-_C130-Pad1_ BAV203-G08		
D7  Net-_C117-Pad1_ Net-_C131-Pad1_ BAV203-G08		
C117  Net-_C117-Pad1_ GND 33p		
C118  Net-_C117-Pad1_ GND 360p		
L26  Net-_C121-Pad1_ Net-_C117-Pad1_ 470nF		
L25  Net-_C117-Pad1_ Net-_C116-Pad2_ 1uF		
C116  Net-_C116-Pad1_ Net-_C116-Pad2_ 180p		
L27  Net-_C121-Pad1_ Net-_C116-Pad1_ 470nF		
C121  Net-_C121-Pad1_ GND 100n		
C122  Net-_C121-Pad1_ GND 100n		
R66  Net-_C106-Pad2_ Net-_C121-Pad1_ 10k		
C119  Net-_C116-Pad1_ GND 33p		
C120  Net-_C116-Pad1_ GND 360p		
D8  Net-_C116-Pad1_ Net-_C130-Pad1_ BAV203-G08		
C115  GND Net-_C106-Pad2_ 100n		
D9  Net-_C125-Pad1_ Net-_C131-Pad1_ BAV203-G08		
L28  Net-_C125-Pad1_ Net-_C124-Pad2_ 470nF		
C125  Net-_C125-Pad1_ GND 270p		
L29  Net-_C127-Pad1_ Net-_C125-Pad1_ 220nF		
C124  Net-_C124-Pad1_ Net-_C124-Pad2_ 120p		
L30  Net-_C127-Pad1_ Net-_C124-Pad1_ 220nF		
C127  Net-_C127-Pad1_ GND 100n		
C128  Net-_C127-Pad1_ GND 100n		
C126  Net-_C124-Pad1_ GND 270p		
D10  Net-_C124-Pad1_ Net-_C130-Pad1_ BAV203-G08		
R67  Net-_C106-Pad2_ Net-_C127-Pad1_ 10k		
C123  GND Net-_C106-Pad2_ 100n		
C131  Net-_C131-Pad1_ BPF 100n		
C130  Net-_C130-Pad1_ Net-_C130-Pad2_ 100n		
C129  GND Net-_C106-Pad2_ 100n		
U16  Net-_P2-Pad13_ Net-_P2-Pad11_ Net-_P2-Pad7_ Net-_P2-Pad12_ Net-_P2-Pad10_ Net-_P2-Pad8_ ? GND ? ? TX Net-_C127-Pad1_ Net-_C121-Pad1_ Net-_C113-Pad1_ Net-_C107-Pad1_ Net-_C100-Pad1_ ULN2003_		
P1  Net-_P1-Pad1_ Net-_C130-Pad2_ Net-_P1-Pad1_ ANT/PA		
P2  ? ? SDA ? ? GND Net-_P2-Pad7_ Net-_P2-Pad8_ GND Net-_P2-Pad10_ Net-_P2-Pad11_ Net-_P2-Pad12_ Net-_P2-Pad13_ GND RPI_CONN_02X07		
U15  +13.8V GND Net-_C106-Pad2_ 78L05		
R33  Net-_C106-Pad2_ +13.8V 0*		
C133  Net-_C106-Pad2_ GND 100n		
C134  Net-_C106-Pad2_ GND 10uF		
C56  +13.8V GND 10uF		
C132  +13.8V GND 100n		

.end
